US03975445
124 g. of 2,4,4-trimethyl-cyclopent-2-en1-one are introduced into 67 g. of nitromethane and, after the addition of 10 ml. of a 40% solution of benzyltrimethylammonium hydroxide in methanol, stirred at 70°C. for 3 days. The mixture is then taken up in ether The ether solution is washed with 10% sulfuric acid, dried over sodium sulfate and evaporated under reduced presssure. The remaining 2,4,4-trimethyl-3-nitromethyl-cyclopentanone boils after rectification in a high vacuum at 97°-100°C/0.2 mmHg. 83 g. of the 2,4,4-trimethyl-3-nitromethyl-cyclopentanone are treated with 36 g. of sodium hydroxide in 600 ml. of water. After the addition of 300 ml. of a saturated aqueous magnesium sulfate solution, the mixture is stirred for 30 minutes, then treated dropwise at 0°C. within 1 hour with a solution of 49.7 g. of potassium permanganate in 800 ml. of water and subsequently filtered. The filtrate is extracted with methylene chloride. The extract is dried over sodium sulfate and evaporated under reduced pressure. There is obtained 1-formyl-3-oxo-2,5,5-trimethyl-cyclopentane, whose 2,4-dinitrophenylhydrazone has a melting point of 174°-177°C.

reactant | 2,4,4-trimethyl-cyclopent-2-en1-one | CC=1C(CC(C1)(C)C)=O | C8H12O
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 1-formyl-3-oxo-2,5,5-trimethyl-cyclopentane | C(=O)C1C(C(CC1(C)C)=O)C | C9H14O2
